US07018988B2
(2S)-N1-(3,5-dichlorophenyl)-N2-(3,4-dimethoxybenzyl)-4-oxo-1,2-pyrrolidine-dicarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-oxoproline, 1,3-dichloro-5-isocyanatobenzene, and 3,4-dimethoxybenzylamine the title compound was obtained in 48% purity by LC/MS. MS(ESI+): m/z=466.6.

reactant | 1-(tert-butoxycarbonyl)-4-oxoproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=O | C10H15NO5
reactant | 1,3-dichloro-5-isocyanatobenzene | ClC1=CC(=CC(=C1)N=C=O)Cl | C7H3Cl2NO
reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
product | (2S)-N1-(3,5-dichlorophenyl)-N2-(3,4-dimethoxybenzyl)-4-oxo-1,2-pyrrolidine-dicarboxamide | ClC=1C=C(C=C(C1)Cl)NC(=O)N1[C@@H](CC(C1)=O)C(=O)NCC1=CC(=C(C=C1)OC)OC | C21H21Cl2N3O5
